US03948906
a. Diphenylmethyl 3-formyloxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylate
Diphenylmethyl 3-hydroxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylate (3 g., 5.8 mmole.) and pyridine (6.5 ml., 82 mmole.) were dissolved in dry tetrahydrofuran (100 ml.), and cooled to -60°. A solution of formyl fluoride (~80 mmole.) in dry tetrahydrofuran (100 ml.), and cooled to -60°. A solution of formyl fluoride ( 80 mmole.) in dry tetrahydrofuran was added dropwise and the mixture maintained at -40° for 1 hour. On reaching room temperature, the mixture was filtered, concentrated, and partitioned between ethyl acetate and 2N-hydrochloric acid. On washing with more acid the ethyl acetate solution precipitated some product (1.77 g.); the remaining ethyl acetate was dried and evaporated to give more product (1.32 g.). A sample of the product was recrystallised from ethyl acetate, m.p. 189°, νmax (CHBr3), 1792 (β-lactam), 1730 and 1232 (COOR), 1690 and 1518 cm-1 (CONH). N.M.R. spectrum (dimethylsulphoxide) CHO at 179τ. (Found: C, 61.7; H, 4.4; N, 4.8. C28H24H2O6S2 requires C, 61.3; H, 4.4; N, 5.1%) NF = 0.7 (Kieselgel G plate, benzene:ethyl acetate = 2:1).

reactant | Diphenylmethyl 3-hydroxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylate | 5.8 mmole, 3 g | OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H24N2O5S2
reactant | pyridine | 82 mmole, 6.5 ml | N1=CC=CC=C1 | C5H5N
reactant | formyl fluoride | ~80 mmole | C(=O)F | CHFO
reactant | formyl fluoride | 80 mmole | C(=O)F | CHFO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Diphenylmethyl 3-formyloxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylate | C(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C28H24N2O6S2
